US07846925B2
To a solution of 4-chloroquinazoline-6-yl-methanol (3.5 g, 0.018 mol) in dry CH2Cl2 (100 mL) was added Dess-Martin periodinane (8.4 g, 0.019 mol) and stirred at RT for 30 min. The reaction mixture was washed with 10% aqueous NaHCO3 (75 mL), water, brine and dried. The solvent was removed under vacuum to give 4-chloroquinazoline-6-carboxaldehyde (3 g, 88%) as pale yellow solid.

reactant | 4-chloroquinazoline-6-yl-methanol | 0.018 mol, 3.5 g | ClC1=NC=NC2=CC=C(C=C12)CO | C9H7ClN2O
reactant | Dess-Martin periodinane | 0.019 mol, 8.4 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-chloroquinazoline-6-carboxaldehyde | 3 g, 88% | ClC1=NC=NC2=CC=C(C=C12)C=O | C9H5ClN2O
